US08604019B2
N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamne) and 6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene. MS obsd. (ESI+) [(M+H)+] 372, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.71 (d, J=5.3 Hz, 1H), 7.65 (d, J=7.1 Hz, 1H), 7.50 (d, J=7.1 Hz, 1H), 7.17-7.25 (m, 1H), 7.10-7.16 (m, 1H), 7.09 (d, J=5.6 Hz, 1H), 5.01 (s, 2H), 4.35 (br. s., 2H), 3.72 (t, J=6.6 Hz, 2H), 2.92-2.96 (m, 2H), 2.87-2.92 (m, 2H), 1.92-2.01 (m, 2H).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene | C1=CC=CC2=C1CNCCS2 | C9H11NS
product | N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | S1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN | C18H21N5S2
